US05037822
1-[4-(diethylamino)benzenesulphonyl]-2-piperidinethione
A suspension comprising 5.5 g of 1-[4-(diethylamino)benzenesulphonyl]-2-piperidinone and 3.74 g of Lawesson reagent in 80 cm3 of ethylene glycol dimethyl ether is heated to reflux for 1 hour. The mixture is allowed to return to room temperature and is then evaporated to dryness. The residue is chromatographed on silica (eluant: ethyl acetate/n-hexane, 1:1) and 4 g of product (m.p. 135°-140° C.) are obtained, which product is purified by 3 successive crystallizations in ethanol. 2 g of expected pure product are obtained.

reactant | 1-[4-(diethylamino)benzenesulphonyl]-2-piperidinone | 5.5 g | C(C)N(C1=CC=C(C=C1)S(=O)(=O)N1C(CCCC1)=O)CC | C15H22N2O3S
reactant | Lawesson reagent | 3.74 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | ethylene glycol dimethyl ether | 80 cm3 | COCCOC | C4H10O2
product | 1-[4-(diethylamino)benzenesulphonyl]-2-piperidinethione | C(C)N(C1=CC=C(C=C1)S(=O)(=O)N1C(CCCC1)=S)CC | C15H22N2O2S2
